US07863293B2
Using General Procedure A: Reaction of {2-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-pyridin-3-yl}-carbamic acid tert-butyl ester in CH3CN with 2-bromomethyl-5-cyano-benzoic acid methyl ester, DIPEA, KI, and DMAP gave 2-{[(3-tert-butoxycarbonylamino-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-5-cyano-benzoic acid methyl ester as a beige solid. 1H NMR (CDCl3) δ 1.65 (s, 9H), 1.68-1.71 (m, 1H), 1.85-1.93 (m, 1H), 2.08-2.12 (m, 1H), 2.27-2.28 (m, 1H), 2.81-2.86 (m, 2H), 3.79-3.91 (m, 7H), 4.02-4.07 (m, 1H), 4.50 (d, 1H, J=18.0 Hz), 7.02-7.06 (m, 1H), 7.12-7.18 (m, 1H), 7.43 (d, 1H, J=6.8 Hz), 7.54-7.59 (m, 1H), 8.00-8.09 (m, 3H), 8.41 (d, 1H, J=9.0 Hz), 8.67-8.71 (m, 1H).

reactant | {2-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-pyridin-3-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C(=NC=CC1)CNC1CCCC=2C=CC=NC12)=O | C20H26N4O2
reactant | 2-bromomethyl-5-cyano-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)C#N)CBr)=O | C10H8BrNO2
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | CC#N | C2H3N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-{[(3-tert-butoxycarbonylamino-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-5-cyano-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)C#N)CN(C1CCCC=2C=CC=NC12)CC1=NC=CC=C1NC(=O)OC(C)(C)C)=O | C30H33N5O4
